US07129239B2
Preparation of 1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]- 4-ethylaminopiperidine-4-carboxylic Acid Amide (20A-1)
To a pale orange solution of 6-chloro-9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purine I-(4A-7)c (1.00 g, 2.66 mmol) in acetone (13 ml) at room temperature was added triethylamine (410 μl, 2.94 mmol). A solution of 4-ethylamino-piperidine-4-carboxylic acid amide I-(7A-80)f in water (1.5 ml) was then added to give a clear yellow reaction solution. After stirring at room temperature for 3 days the cloudy white reaction mixture was diluted with water (11 ml). After stirring 1 hour at room temperature followed by 1 hour at 0° C., the precipitate was collected on a sintered glass funnel and rinsed with cold 1:1, acetone: H2O. The solid was dried, in vacuo, to give title compound 20A-1 as a colorless solid (1.22 g, 90%): +ESI MS (M+1) 510.2; 1H NMR (400 MHz, CD3OD) δ 8.19 (s, 1H), 7.57 (d, J=7.0 Hz,1H), 7.45–7.35 (m, 5H), 7.26 (d, J=8.7 Hz, 2H), 4.54 (br s, 2H), 4.24 (br s, 2H), 2.51 (q, J=7.0 Hz, 2H), 2.12–2.06 (m, 2H), 1.76–1.72 (m, 2H) 1.10 (t, J=7.0 Hz, 3H).

reactant | 6-chloro-9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purine | 2.66 mmol, 1.00 g | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C17H9Cl3N4
reactant | triethylamine | 2.94 mmol, 410 μl | C(C)N(CC)CC | C6H15N
reactant | 4-ethylamino-piperidine-4-carboxylic acid amide | C(C)NC1(CCNCC1)C(=O)N | C8H17N3O
solvent | acetone | 13 ml | CC(=O)C | C3H6O
solvent | water | 1.5 ml | O | H2O
solvent | water | 11 ml | O | H2O
product | 1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]- 4-ethylaminopiperidine-4-carboxylic Acid Amide | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CCC(CC1)(C(=O)N)NCC | C25H25Cl2N7O
